US07781431B2
5-(4-chlorophenyl)-6-cyclohexyl-N-(ethylsulfonyl)-4-(2-morpholin-4-yl-2-oxoethyl)-4H-thieno[3,2-b]pyrrole-2-carboxamide
A solution (0.015 M) of 5-(4-chlorophenyl)-6-cyclohexyl-4-(2-morpholin-4-yl-2-oxoethyl)-4H-thieno[3,2-b]pyrrole-2-carboxylic acid in THF at RT was treated with CDI (1.1 eq.) and DMAP (1.1 eq.). After stirring for 1 h at RT, ethanesulfonamide (2 eq.) and DBU (2 eq.) were added. The mixture was heated to reflux for 5 h then cooled down and diluted with AcOEt. The organic phase was washed with aqueous HCl (0.1 N) and dried. Evaporation of the solvent under reduced pressure gave a residue which was purified by RP-HPLC (Conditions: Waters X-TERRA MS C18, 10 micron, 19×100 mm; flow: 20 mL/min; Gradient: A: H2O+0.05% TFA; B: MeCN+0.05% TFA; 50% A isocratic for 1 min then linear to 20% A in 9 min) to afford the title compound (17%) as a solid.

reactant | 5-(4-chlorophenyl)-6-cyclohexyl-4-(2-morpholin-4-yl-2-oxoethyl)-4H-thieno[3,2-b]pyrrole-2-carboxylic acid | 0.015 M | ClC1=CC=C(C=C1)C1=C(C2=C(N1CC(=O)N1CCOCC1)C=C(S2)C(=O)O)C2CCCCC2 | C25H27ClN2O4S
reactant | CDI | 1.1 eq. | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | ethanesulfonamide | 2 eq. | C(C)S(=O)(=O)N | C2H7NO2S
reactant | DBU | 2 eq. | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | C1CCOC1 | C4H8O
catalyst | DMAP | 1.1 eq. | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 5-(4-chlorophenyl)-6-cyclohexyl-N-(ethylsulfonyl)-4-(2-morpholin-4-yl-2-oxoethyl)-4H-thieno[3,2-b]pyrrole-2-carboxamide | 17% | ClC1=CC=C(C=C1)C1=C(C2=C(N1CC(=O)N1CCOCC1)C=C(S2)C(=O)NS(=O)(=O)CC)C2CCCCC2 | C27H32ClN3O5S2
